US08686150B2
(e) 8,8-Dimethyl-6,9-diaza-spiro[4.5]decane-9-carboxylic acid tert-butyl ester
To 7.58 g of 6-benzyl-8,8-dimethyl-6,9-diaza-spiro[4.5]decane-9-carboxylic acid tert-butyl ester in 140 ml of methanol was added 1.13 g Palladium on charcoal (10%) and the mixture was hydrogenated at r.t. and ambient pressure for 16 h. The catalyst was removed by filtration over celite and the filtrate was concentrated in vacuo to yield 5.38 g (95%) of the title compound, which was used without further purification.

reactant | 6-benzyl-8,8-dimethyl-6,9-diaza-spiro[4.5]decane-9-carboxylic acid tert-butyl ester | 7.58 g | C(C)(C)(C)OC(=O)N1C(CN(C2(CCCC2)C1)CC1=CC=CC=C1)(C)C | C22H34N2O2
solvent | methanol | 140 ml | CO | CH4O
catalyst | Palladium on charcoal | 1.13 g | [Pd] | Pd
product | 8,8-Dimethyl-6,9-diaza-spiro[4.5]decane-9-carboxylic acid tert-butyl ester | 5.38 g, 95% | C(C)(C)(C)OC(=O)N1C(CNC2(CCCC2)C1)(C)C | C15H28N2O2
